US08110687B2
A solution of 7-{[2-(tert-butoxycarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid (0.653 g, 1.77 mmol), 3-amino-5-(trifluoromethyl)-benzonitrile (0.362 g, 1.94 mmol), and DMAP (0.238 g, 1.94 mmol) in DCM (10 mL) was cooled to 0° C. To this solution was added EDCI (0.339 g, 1.77 mmol). The reaction mixture was allowed to stir and warm to rt overnight. The reaction mixture was diluted with EtOAc, washed with 1N HCl and sat. aq. NaHCO3, and concentrated. The residue was purified by column chromatography to give tert-butyl 4-{[7-({[3-cyano-5-(trifluoromethyl)phenyl]-amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}pyridine-2-carboxylate (0.750 g, 79%). LCMS: (FA) ES+ 538.6.

reactant | 7-{[2-(tert-butoxycarbonyl)pyridin-4-yl]oxy}-1,2,3,4-tetrahydronaphthalene-2-carboxylic acid | 1.77 mmol, 0.653 g | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)OC1=CC=C2CCC(CC2=C1)C(=O)O | C21H23NO5
reactant | 3-amino-5-(trifluoromethyl)-benzonitrile | 1.94 mmol, 0.362 g | NC=1C=C(C#N)C=C(C1)C(F)(F)F | C8H5F3N2
reactant | EDCI | 1.77 mmol, 0.339 g | CCN=C=NCCCN(C)C | C8H17N3
catalyst | DMAP | 1.94 mmol, 0.238 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-{[7-({[3-cyano-5-(trifluoromethyl)phenyl]-amino}carbonyl)-5,6,7,8-tetrahydronaphthalen-2-yl]oxy}pyridine-2-carboxylate | 0.750 g, 79% | C(#N)C=1C=C(C=C(C1)C(F)(F)F)NC(=O)C1CCC=2C=CC(=CC2C1)OC1=CC(=NC=C1)C(=O)OC(C)(C)C | C29H26F3N3O4
